US06610688B2
4-Chloro-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one (1 eq.) was condensed with 5-formyl-1H-pyrrole-2-carboxylic acid (2-morpholin-4-yl-ethyl)-amide (1 eq.) and triethylamine in ethanol at room temperature to give (92.5%) of 5-(4-chloro-6-oxo-6,7-dihydro-pyrrolo[2,3-d]pyrimidin-5-ylidenemethyl)-1H-pyrrole-2-carboxylic acid (2-morpholin4-yl-ethyl)-amide.

reactant | 4-Chloro-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one | 1 eq. | ClC=1C2=C(N=CN1)NC(C2)=O | C6H4ClN3O
reactant | 5-formyl-1H-pyrrole-2-carboxylic acid (2-morpholin-4-yl-ethyl)-amide | 1 eq. | N1(CCOCC1)CCNC(=O)C=1NC(=CC1)C=O | C12H17N3O3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | ethanol | C(C)O | C2H6O
product | 5-(4-chloro-6-oxo-6,7-dihydro-pyrrolo[2,3-d]pyrimidin-5-ylidenemethyl)-1H-pyrrole-2-carboxylic acid (2-morpholin4-yl-ethyl)-amide | 92.5% | N1(CCOCC1)CCNC(=O)C=1NC(=CC1)C=C1C(NC=2N=CN=C(C21)Cl)=O | C18H19ClN6O3
